US04975455
STAGE A: 3-ACETYL-2H-CHROMENE
1.22 g (10 mmol) of salicylaldehyde together with 0.66 g (10 mmol) of 3-oxo-1-butene are added at room temperature to a suspension of 0.14 g (1 mmol) of potassium carbonate in 50 ml of 2™butanone. The mixture is brought to reflux with stirring and this temperature is maintained for 4 hours. The reaction medium is evaporated on a water bath under vacuum and the residue taken up with 100 ml of water and extracted three times with 75 ml of diethyl ether. The organic phases are combined, washed to neutrality with saturated aqueous sodium chloride solution, dried over sodium sulfate and filtered, the filtrate is evaporated on a water bath under vacuum and the product recrystallized in hexane

reactant | salicylaldehyde | 10 mmol, 1.22 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 3-oxo-1-butene | 10 mmol, 0.66 g | O=C(C=C)C | C4H6O
reactant | potassium carbonate | 1 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | CC(CC)=O | C4H8O
product | 3-ACETYL-2H-CHROMENE | C(C)(=O)C=1COC2=CC=CC=C2C1 | C11H10O2
